US06004724
4.1: (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-(4-methylphenyl)-acetonitrile
40 g of KOH are dissolved in 200 ml of methanol and heated up to 55° C. To the solution are added 25 g (0.19 mol) of 4-methylphenylacetonitrile, followed by 18 ml (0.17 mol) of nitrobenzene. The reaction mixture is stirred at 55° C. for 2.5 hrs. After cooling, 400 ml of water are added with stirring. The resulting solution is acidified by addition of 110 ml of acetic acid in 100 ml of water, leading to a yellow precipitate. The mixture is then filtered, and the solid is washed with a mixture of methanol and water, and methanol. After the solid is dried in air, 29.6 g (74%) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-(4-methylphenyl)-acetonitrile are obtained in the form of a yellow powder having a melting point of 148-151° C. (dec.).

reactant | KOH | 40 g | [OH-].[K+]
reactant | 4-methylphenylacetonitrile | 0.19 mol, 25 g | CC1=CC=C(C=C1)CC#N | C9H9N
reactant | nitrobenzene | 0.17 mol, 18 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-(4-methylphenyl)-acetonitrile | ON=C1C=CC(C=C1)=C(C#N)C1=CC=C(C=C1)C | C15H12N2O
